US07211440B2
1-(5-Carboxy-2-thienyl)-4,4,5,5,5-pentafluoro-1,3-pentanedione
A mixture of 1-(5-cyano-2-thienyl)-4,4,5,5,5-pentafluoro-1,3-pentanedione (0.78 g), sulfuric acid (9 ml) and acetic acid (10 ml) was refluxed for 2 hours. The cooled mixture was poured into 100 ml of water. The precipitation was filtered and washed with water. 1H NMR (CDCl3): 6.53 (s, 1 H); 7.57 (d, 1 H, J=4.1 Hz); 7.78 (d, 1 H, J=4.1 Hz).

reactant | 1-(5-cyano-2-thienyl)-4,4,5,5,5-pentafluoro-1,3-pentanedione | 0.78 g | C(#N)C1=CC=C(S1)C(CC(C(C(F)(F)F)(F)F)=O)=O | C10H4F5NO2S
reactant | sulfuric acid | 9 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 1-(5-Carboxy-2-thienyl)-4,4,5,5,5-pentafluoro-1,3-pentanedione | C(=O)(O)C1=CC=C(S1)C(CC(C(C(F)(F)F)(F)F)=O)=O | C10H5F5O4S
